US06660742B2
To a solution of 2-[4-(N-benzyloxycarbonylamino)-2-(5-methoxyindole-2-carboxamido)naphthalen-1-yl]ethyl acetate (0.5 g, 0.91 mmol) in methanol: tetrahydrofuran=1:1 (10 mL) was added potassium carbonate (0.13 g, 0.91 mmol) at room temperature and stirred overnight. The reaction mixture was diluted with AcOEt (100 mL) and washed with H2O (20 mL), saturated aqueous NaCl (20 mL), and then the organic layer was dried (Na2SO4) and concentrated under reduced pressure to yield as a brown foam 2-[4-(N-benzyloxycarbonylamino)-2-(5-methoxyindole-2-carboxamido)naphthalen-1-yl]ethanol (0.42 g, 94%): mp 198° C. (decomp.); 1H NMR (DMSO-d6, 500 MHz) δ 10.18 (s, 1H), 8.26 (d, 8.5, 1H), 7.97 (d, 8.5, 1H), 7.51 (t, 7.0, 1H), 7.43 (d, 8.5, 1H), 7.39 (d, 7.5, 2H), 7.33 (s, 1H), 7.31 (s, 1H), 7.28 (t, 7.5, 2H), 7.18 (t, 7.5, 1H), 7.11 (brs, 1H), 7.08 (d, 2.5, 1H), 6.91 (t, 6.0, 1H), 6.86 (dd, 9.0, 2.5, 1H), 6.81 (s, 1H), 5.35 (t, 4.5, 1H), 4.47 (d, 5.5, 2H), 3.76 (s, 3H), 3.69 (m, 2H), 3.11 (t, 6.0, 2H);); FABMS (NBA) m/z 465 (M−CO2+), IR (neat) νmax 3272, 2945, 2874, 1646, 1594, 1528, 1479, 1453, 1422, 1404, 1261, 1213, 1162, 1030, 841, 805, 758, 734, 699 cm−1.

reactant | 2-[4-(N-benzyloxycarbonylamino)-2-(5-methoxyindole-2-carboxamido)naphthalen-1-yl]ethyl acetate | 0.91 mmol, 0.5 g | C(C)(=O)OCCC1=C(C=C(C2=CC=CC=C12)NC(=O)OCC1=CC=CC=C1)NC(=O)C=1NC2=CC=C(C=C2C1)OC | C32H29N3O6
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | potassium carbonate | 0.91 mmol, 0.13 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | CO | CH4O
solvent | AcOEt | 100 mL | CCOC(=O)C | C4H8O2
product | 2-[4-(N-benzyloxycarbonylamino)-2-(5-methoxyindole-2-carboxamido)naphthalen-1-yl]ethanol | 0.42 g, 94% | C(C1=CC=CC=C1)OC(=O)NC1=CC(=C(C2=CC=CC=C12)CCO)NC(=O)C=1NC2=CC=C(C=C2C1)OC | C30H27N3O5
